US08580805B2
4-(3,5-di-tert-butyl-4-hydroxy-phenyl)-2-methyl-pyrimidine-5-carboxylic Acid Methylamide
A 50-mL round bottom flask was charged with 3-(3,5-di-tert-butyl-4-hydroxy-phenyl)-3-oxo-propanoic acid methyl ester (3.05 g, 10 .mmol) and toluene (20 mL). The mixture was warmed to give a solution, then N,N-dimethylformamide dimethyl acetal (1.60 mL, 12 mmol) was added while the solution was still hot. The mixture was stirred for 2 h at room temperature and 30 min 75° C. To this solution was added acetamidine hydrochloride (1.8908 g, 20 mmol) and 2-propanol (50 mL), followed by potassium tert. butoxide (3.14 g, 28 mmol). The stirred mixture was immersed into a bath maintained at 74° C. and after 50 min the temperature of the heating bath was increased to 80° C. and maintained for 80 min. The mixture was allowed to cool to ambient temperature and was equilibrated with water (50 mL), a 1 M solution of potassium dihydrogen phosphate and ethyl acetate (100 mL). The aqueous layer was discarded and the organic layer was washed with water (2×25 mL), brine (25 mL), dried with sodium sulfate, concentrated to a crystalline suspension and heated again to dissolve some of the solids. The resulting suspension was further diluted with cyclohexane and allowed to crystallize. The crystals were washed with cyclohexane and pentane, and dried. The resulting material (2.94 g) was dissolved in a mixture of acetone and ethanol. The solution was filtered, the filtrate was concentrated to a crystalline suspension, then reheated and sufficient hot ethanol was added to give a solution. This solution was concentrated until turbid, and then allowed to crystallize first at room temperature then at 5° C. The solids were filtered off, washed with 1:1 ethyl acetate-hexane and hexane to afford 2.50 g of the title compound (70% yield). TLC (EtOAc) Rf 0.30; 1H-NMR (300 MHz, DMSO-d6) δ 1.39 (9H, s), 2.65 (3H, s), 2.71 (3H, d, J=4.5 Hz), 7.50 (1H, s), 7.83 (2H, s), 8.50 (1H, br s), 8.72 (1H, s).

reactant | 3-(3,5-di-tert-butyl-4-hydroxy-phenyl)-3-oxo-propanoic acid methyl ester | 3.05 g | COC(CC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C18H26O4
reactant | N,N-dimethylformamide dimethyl acetal | 12 mmol, 1.60 mL | COC(N(C)C)OC | C5H13NO2
reactant | acetamidine hydrochloride | 20 mmol, 1.8908 g | Cl.C(C)(=N)N
reactant | potassium tert. butoxide | 28 mmol, 3.14 g | CC(C)([O-])C.[K+]
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | 2-propanol | 50 mL | CC(C)O | C3H8O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3,5-di-tert-butyl-4-hydroxy-phenyl)-2-methyl-pyrimidine-5-carboxylic Acid Methylamide | 2.50 g, 70% yield | CNC(=O)C=1C(=NC(=NC1)C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C21H29N3O2
